US07601737B2
For example, 4-chloro-2-chloromethyl-3-methylpyridinium chloride could be reacted with 1H-benzimidazole-2-thiol according to the procedure described under Example 12 to give 2-[(4-chloro-3-methyl-2-pyridinyl)methylthio]-1H-benzimidazole. Conversion of this product with, for instance, 1,1-dideuterio-3-methoxy-1-propanol or 1,1-dideuterio-2,2,2-trifluoroethanol following the protocol described under Example 14 would then give rise to formation of 2-[(4-(1,1-dideuterio-3-methoxyprop-1-oxy)-3-methyl-2-pyridinyl)methylthio]-1H-benzimidazole and 2-[(4-(1,1-dideuterio-2,2,2-trifluoroethoxy)-3-methyl-2-pyridinyl)methylthio]-1H-benzimidazole, respectively. Finally, oxidation of these compounds according to the procedure used in Example 46 would provide rac-2-[(4-(1,1-dideuterio-3-methoxypropan-1-oxy)-3-methyl-2-pyridinyl)methylsulfinyl]-1H-benzimidazole and rac-2-[(4-(1,1-dideuterio-2,2,2-trifluoroethoxy)-3-methyl-2-pyridinyl)methylsulfinyl]-1H-benzimidazole, respectively.

reactant | 4-chloro-2-chloromethyl-3-methylpyridinium chloride | [Cl-].ClC1=C(C(=[NH+]C=C1)CCl)C
reactant | 1H-benzimidazole-2-thiol | N1C(=NC2=C1C=CC=C2)S | C7H6N2S
product | 2-[(4-chloro-3-methyl-2-pyridinyl)methylthio]-1H-benzimidazole | ClC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C | C14H12ClN3S
